US07667228B2
While cooling acetic acid solution prepared by dissolving 25 g (160.1 mmol) of 2,4-difluorophenyl acetophenone in an amount of 50 milliliter down to 10° C. or cooler, 25.5 g (160.1 mmol) of bromine was dripped and the resultant solution reacted for 7 hours. Throwing the resultant solution into 300 milliliter of water, the solution was extracted with the use of methylene chloride. After drying an organic layer with the use of magnesium sulfide, the solvent was removed. Refining the resultant residues by means of silica column (hexane), 23.4 g of α-bromo-2,4-difluorophenyl acetophenone Intermediate 1-2c as brown oil was obtained (yield: 62%). The brown oil was confirmed as the aimed compound from 1H-NMR spectrum. The measurement result is shown as follows:

reactant | 2,4-difluorophenyl acetophenone | 160.1 mmol, 25 g | FC1=C(C=CC(=C1)F)CC(=O)C1=CC=CC=C1 | C14H10F2O
reactant | bromine | 160.1 mmol, 25.5 g | BrBr | Br2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | α-bromo-2,4-difluorophenyl acetophenone | 23.4 g, yield: 62% | BrC(C(=O)C1=CC=CC=C1)C1=C(C=C(C=C1)F)F | C14H9BrF2O
